US04340698
10 g dimethyl(2-butoxyethyl)amine and 10 g methyl iodide were stirred in 125 ml ether for 24 hours. The precipitate was filtered off and dried. The trimethyl(2-butoxyethyl)ammonium iodide obtained had a melting point of 71°-73° C.

reactant | dimethyl(2-butoxyethyl)amine | 10 g | CN(CCOCCCC)C | C8H19NO
reactant | methyl iodide | 10 g | CI | CH3I
solvent | ether | 125 ml | CCOCC | C4H10O
product | trimethyl(2-butoxyethyl)ammonium iodide | [I-].C[N+](CCOCCCC)(C)C | InChI=1S/C9H22NO.HI/c1-5-6-8-11-9-7-10(2,3)4;/h5-9H2,1-4H3;1H/q+1;/p-1
